US07572820B2
A. 1,1-Dimethylethyl [4-chloro-5-cyano-2-(trifluoromethyl)-1H-benzimidazol-1-yl]acetate
Synthesized as described in Example 200A from 4-chloro-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile and 1,1-dimethylethyl bromoacetate: MS (APCl) m/z 360 (M+1).

reactant | 4-chloro-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2NC(=NC21)C(F)(F)F)C#N | C9H3ClF3N3
reactant | 1,1-dimethylethyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 1,1-Dimethylethyl [4-chloro-5-cyano-2-(trifluoromethyl)-1H-benzimidazol-1-yl]acetate | ClC1=C(C=CC=2N(C(=NC21)C(F)(F)F)CC(=O)OC(C)(C)C)C#N | C15H13ClF3N3O2
